US05932745
2-Phenyl-5-(pyrrolidin-1-yl)-hex-3-yn-2-ol
A solution of 2-(pyrrolidin-1-yl)-but-3-yne (0.1.23 g) in dry tetrahydrofuran (20 ml) was treated at -78° C. with a solution of n-butyl lithium in hexanes (2.5 M, 4.4 ml) and the mixture was allowed to stir at -78° C. for 30 minutes and them permitted to warm to room temperature over the course of one hour. Upon recooling to -78° C. this mixture was treated with a solution of acetophenone (1.2 g) in tetrahydrofuran (5 ml). The reaction was permitted to warm to room temperature over the course of two hours, and was then partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate, and the pooled organic phase was washed with water, brine, and then dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give a crude product, which was purified by column chromatography over silica gel (5-10% methanol in dichloromethane was used as the eluant) to afford the product as an oil that solidified on standing. MS(+ES), m/z: 244 (M+H)+.

reactant | 2-(pyrrolidin-1-yl)-but-3-yne | N1(CCCC1)C(C)C#C | C8H13N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | acetophenone | 1.2 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Phenyl-5-(pyrrolidin-1-yl)-hex-3-yn-2-ol | C1(=CC=CC=C1)C(C)(C#CC(C)N1CCCC1)O | C16H21NO
